US05728370
2,2,6,6-Tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxole-4-carboxylic acid methyl ester
2,2,6,6-Tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxole-4-carboxylic acid (10.0 g, 38.0 mmol) was dissolved in dry DMF (100 mL). Potassium carbonate (15.2 g, 110.0 mmol) was added and the reaction was heated to 55° C. for 30 min. After cooling to ambient temperature, methyl iodide (15.6 g, 110.0 mmol) was added and the solution was stirred overnight. The precipitate was filtered off and the solution was evaporated. The residue was dissolved in saturated aqueous NaHCO3 and ether. The aqueous layer was discarded and the organic phase was dried (Na2SO4), filtered and evaporated to give 9.4 g (88%) of the pure product.

reactant | 2,2,6,6-Tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxole-4-carboxylic acid | 38.0 mmol, 10.0 g | CC1(OC2=C(O1)C(=C1C(OC(O1)(C)C)=C2)C(=O)O)C | C13H14O6
reactant | Potassium carbonate | 110.0 mmol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 110.0 mmol, 15.6 g | CI | CH3I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2,2,6,6-Tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxole-4-carboxylic acid methyl ester | 9.4 g, 88% | COC(=O)C1=C2C(OC(O2)(C)C)=CC2=C1OC(O2)(C)C | C14H16O6
